US04880806
To ethyl 1-cyclopropyl-7-(4-ethoxycarbonyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.8 g) is added 10% aqueous sodium hydroxide (7 ml), and the mixture is refluxed for 5 hours. After cooling, the mixture is acidified with diluted hydrochloric acid and is extracted with dichloromethane. The aqueous layer is adjusted to about pH 7.5 with sodium hydrogen carbonate, and the resulting precipitates are separated by filtration to give 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.3 g), m.p. 291°-295° C. (decomp.).

reactant | ethyl 1-cyclopropyl-7-(4-ethoxycarbonyl-1-piperazinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.8 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CCN(CC1)C(=O)OCC)F)=O)C(=O)OCC | C23H28FN3O5
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.3 g | N1(CCNCC1)C1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)F | C18H20FN3O3
